US04049422
4(2-Nitro-4-trifluoromethylphenyl)morpholine was prepared by reaction of 4-chloro-3-nitrobenzotrifluoride with equimolar amounts of morpholine and triethylamine in monoglyme. The resultant product melts at 37° - 39° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | monoglyme | C(OC)COC | C4H10O2
product | 4(2-Nitro-4-trifluoromethylphenyl)morpholine | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCOCC1 | C11H11F3N2O3
